US07763186B2
Yellow 1-ethyl-3-methylimidazolium chloride (Aldrich) (50 g) was dissolved in deionized water (250 mL). Decolorizing charcoal (3 g) was added to the solution and the resulting mixture heated at 65° C. for 24 hours. The solution was cooled to room temperature and filtered. To the yellow filtrate was added decolorizing charcoal (3 g) and the solution was then heated for a further 24 hours at 65° C. The solution was allowed to cool to room temperature and then filtered to give a colorless solution. This solution was poured into a solution of lithium bis(trifluoromethanesulfonyl)amide (115 g) in 200 mL of deionized water. The solution was then stirred at room temperature for 3 hrs after which two layers had formed. The bottom layer was separated and washed three times with deionized water (100 mL). The layer was then heated at 65° C. under vacuum for 48 hrs and then filtered through activated alumina to give 1-ethyl-3-methylimidazolium bis(trifluoromethanesulfonyl)amide as a colorless clean dry material in 87% yield.

reactant | 1-ethyl-3-methylimidazolium chloride | 50 g | [Cl-].C(C)[N+]1=CN(C=C1)C
reactant | charcoal | 3 g | C | CH4
reactant | lithium bis(trifluoromethanesulfonyl)amide | 115 g | FC(S(=O)(=O)[N-]S(=O)(=O)C(F)(F)F)(F)F.[Li+]
solvent | water | 250 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | 1-ethyl-3-methylimidazolium bis(trifluoromethanesulfonyl)amide | 87% yield | FC(S(=O)(=O)[N-]S(=O)(=O)C(F)(F)F)(F)F.C(C)[N+]1=CN(C=C1)C | InChI=1S/C6H11N2.C2F6NO4S2/c1-3-8-5-4-7(2)6-8;3-1(4,5)14(10,11)9-15(12,13)2(6,7)8/h4-6H,3H2,1-2H3;/q+1;-1
